US09034866B2
To a mixture of [2-Carbamoyl-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulen-4-yl]-acetic acid (60 mg, 0.155 mmol) in DCM (20 mL) were added Dimethylamine Hydrochloride (31.7 mg, 0.388 mmol), HOBt (31.5 mg, 0.233 mmol), EDCI (44.7 mg, 0.233 mmol) and DIPEA (60.3 mg, 0.466 mmol). The mixture stirred in autoclave at 60° C. overnight. Then the mixture was cooled to room temperature and partitioned between EtOAc and H2O, and the aqueous layer was extracted with EtOAc (2×20 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was triturated with EtOAc and hexane (1:1) to afford 4-Dimethylcarbamoylmethyl-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide (30 mg, 46%). 1H NMR (400 MHz, DMSO-d6): δ 8.61 (d, J=1.8 Hz, 1H), 8.42 (s, 1H), 7.85 (s, 1H), 7.27 (d, J=8.4 Hz, 1H), 7.04 (d, J=8.3 Hz, 1H), 5.45 (s, 1H), 4.5 (m, 1H), 4.10 (m, 1H), 3.93 (m, 1H), 2.90 (d, J=16 Hz, 6H), 2.82 (m, 1H), 2.69 (m, 1H), 1.47 (s, 6H); LC-MS (ESI & APCI): 414.5 (M+1).

reactant | [2-Carbamoyl-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulen-4-yl]-acetic acid | 0.155 mmol, 60 mg | C(N)(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)C#CC(C)(C)O)CC(=O)O | C19H18N2O5S
reactant | Dimethylamine Hydrochloride | 0.388 mmol, 31.7 mg | Cl.CNC
reactant | HOBt | 0.233 mmol, 31.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.233 mmol, 44.7 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 0.466 mmol, 60.3 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Dimethylcarbamoylmethyl-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide | 30 mg, 46% | CN(C(=O)CC1COC2=C(C=3N=C(SC13)C(=O)N)C=C(C=C2)C#CC(C)(C)O)C | C21H23N3O4S
